US07109229B2
(a) (1-Ethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester
A solution of 1-ethyl-7-bromoindole (2.1 g, 9.4 mmol) in THF (50 mL) was cooled to −78° C. and a 1.7 M solution of tBuLi in pentane (13.8 mL, 23.5 mmol) was added dropwise over 10 min. After 15 min, the resultant brown solution was transferred over 30 min via a cannula cooled with dry ice to a solution of dimethyl oxalate (3.88 g, 32.9 mmol) in THF (40 mL) maintained at −78° C. After 15 min, the mixture was allowed to warm to room temperature and stirred 4 h. The brown solution was treated with pH 7.0 buffer, poured into EtOAc and the EtOAc washed with pH 7.0 buffer, saturated aq NaHCO3, brine, dried (MgSO4) and concentrated to a brown oil. Flash chromatography (20% EtOAc/hexanes) afforded the title compound (1.8 g, 83%) as a yellow oil, which was used without further purification. 1H NMR (400 MHz, DMSO-d6) 7.9 (d, J=8, 1H), 7.55 (m, 2H), 7.2 (dd, J=8, 8 Hz, 1H), 6.66 (d, J=3 Hz, 1H), 4.25 (q, J=7 Hz, 2H), 3.94 (t, J=7 Hz, 3H). MS (electrospray, m/z) 232 (M++1).

reactant | 1-ethyl-7-bromoindole | 9.4 mmol, 2.1 g | C(C)N1C=CC2=CC=CC(=C12)Br | C10H10BrN
reactant | tBuLi | [Li]C(C)(C)C
reactant | pentane | 23.5 mmol, 13.8 mL | CCCCC | C5H12
reactant | dry ice | C(=O)=O | CO2
reactant | dimethyl oxalate | 32.9 mmol, 3.88 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-Ethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 1.8 g, 83% | COC(C(=O)C=1C=CC=C2C=CN(C12)CC)=O | C13H13NO3
